US05342846
5-Amino-1-cyclopropyl-6,8-difluoro-7-[3-(4-amino-1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline -3-carboxylic acid
A mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (100 mg, 0.67 mmol), 3-(4-amino-1,2,3-triazol-1-yl)pyrrolidine dihydrochloride (185 mg, 0.83 mmol) and diazabicycloundecane (127 mg, 0.83 mmol) in pyridine (3 ml) was heated at 110° C. for 24 hrs. Reaction mixture was concentrated to dryness under vacuum and residue was dissolved in water, extracted with methylene chloride, dried over sodium sulfate and concentrated to dryness. The solid residue thus obtained was crystallized from chloroform to brown solid. Yield 15 mg (10.4%), m.p. 210°-213° C. 1H NMR (TFA) δ: 1.22-1.58 (m, 4H), 2.70-2.90 (m, 2H), 4.06-4.54 (m, 5H), 5.48-5.60 (m, 1H), 7.79 (s, 1H), 9.14 (s, 1H).

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.67 mmol, 100 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 3-(4-amino-1,2,3-triazol-1-yl)pyrrolidine dihydrochloride | 0.83 mmol, 185 mg | Cl.Cl.NC=1N=NN(C1)C1CNCC1
reactant | diazabicycloundecane | 0.83 mmol, 127 mg | N1(NCCCCCCCCC1)C1CCCCCCCCCC1 | C20H40N2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 5-Amino-1-cyclopropyl-6,8-difluoro-7-[3-(4-amino-1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline -3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)N1N=NC(=C1)N)F)C1CC1)C(=O)O)=O | C19H19F2N7O3
